US07858800B2
1) Production of tert-butyl 4-(N-hydroxyamidino)-piperazine-1-carboxylate
In a nitrogen atmosphere, a suspension of 7.52 g of tert-butyl 4-cyanopiperazine-1-carboxylate (JMC, 1988, 31, 1036), 7.46 g of hydroxyammonium chloride and 19.7 g of potassium carbonate in 40 ml of ethanol was heated to reflux for 2 hours. The residue prepared by evaporation of the solvent was diluted with ethyl acetate, washed with water and then with a saturated saline solution and dried over sodium sulfate. The solvent was evaporated in vacuo to give 7.51 g of the title compound as a white solid.

reactant | tert-butyl 4-cyanopiperazine-1-carboxylate | 7.52 g | C(#N)N1CCN(CC1)C(=O)OC(C)(C)C | C10H17N3O2
reactant | hydroxyammonium chloride | 7.46 g | [Cl-].O[NH3+]
reactant | potassium carbonate | 19.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(N-hydroxyamidino)-piperazine-1-carboxylate | 7.51 g | ONC(=N)N1CCN(CC1)C(=O)OC(C)(C)C | C10H20N4O3
